US04918083
4-Fluoro-1-(1-hydroxyethyl)-2-hydroxymethylbenzene
This compound was prepared in an analogous manner to Example X1 from 8.0 (48 mM) of 6-fluoro-3-methylphthalide and lithium aluminium hydride to yield the title compound as a yellow oil.

reactant | 6-fluoro-3-methylphthalide | FC1=CC=C2C(OC(=O)C2=C1)C | C9H7FO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-Fluoro-1-(1-hydroxyethyl)-2-hydroxymethylbenzene | FC1=CC(=C(C=C1)C(C)O)CO | C9H11FO2
